US04189433
54 g of 7-amino-4-benzyloxy-1,2-benzisothiazole are suspended in 400 ml of half-concentrated hydrochloric acid and diazotized at from 0° to 5° C. with a solution of 16 g of sodium nitrite in 60 ml of water. 500 ml of tetrahydrofuran, 400 ml of a saturated sodium acetate solution and 120 g of sodium acetate are then added and the mixture is allowed to warm up to room temperature. The two-phase reaction medium is then repeatedly extracted with methylene chloride. The combined extracts are dried over magnesium sulfate and then free from solvent under reduced pressure. The crude product is fractionated, giving 30 g (60% of theory) of 4-benzyloxy-1,2-benzisothiazole of melting point 47°-49° C. (boiling point 165° C./0.4 mm Hg).

reactant | 7-amino-4-benzyloxy-1,2-benzisothiazole | 54 g | NC1=CC=C(C=2C=NSC21)OCC2=CC=CC=C2 | C14H12N2OS
reactant | sodium nitrite | 16 g | N(=O)[O-].[Na+]
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | sodium acetate | 400 ml | C(C)(=O)[O-].[Na+]
reactant | sodium acetate | 120 g | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 400 ml | Cl | ClH
solvent | water | 60 ml | O | H2O
product | 4-benzyloxy-1,2-benzisothiazole | 30 g, 60% | C(C1=CC=CC=C1)OC1=CC=CC2=C1C=NS2 | C14H11NOS
